US07217740B2
1-{5-[(E)-2-(2,4-difluorophenyl)vinyl]-2-(phenylsulfonyl)phenyl}ethanol
A solution of 5-[(E)-2-(2,4-difluorophenyl)vinyl]-2-(phenylsulfonyl)benzaldehyde (prepared from Example 58 according to the method of Example 50 Step 1, 74 mg, 0.193 mmol) in tetrahydrofuran (2 mL) was cooled to −78° C. under nitrogen. Methylmagnesium chloride (3.0M in tetrahydrofuran, 0.15 mL, 0.424 mmol) was added and the reaction stirred for 30 minutes then quenched with 1N HCl (5 mL) and extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by flash column chromatography on silica, eluting with 30% ethyl acetate/isohexane to obtain the title compound as a white solid (56 mg, 72%). δH (360 MHz, d6 DMSO): 8.02 (1H, d, J=8.3 Hz), 7.95–7.59 (8H, m), 7.39 (2H, s), 7.33–7.27 (1H, m), 7.14 (1H, td, J=2.1, 8.5 Hz), 5.37 (2H, t, J=5.4 Hz), 1.07 (3H, d, J=5.9 Hz).

reactant | 5-[(E)-2-(2,4-difluorophenyl)vinyl]-2-(phenylsulfonyl)benzaldehyde | FC1=C(C=CC(=C1)F)/C=C/C=1C=CC(=C(C=O)C1)S(=O)(=O)C1=CC=CC=C1 | C21H14F2O3S
reactant | Methylmagnesium chloride | 0.424 mmol, 3.0M, 0.15 mL | C[Mg]Cl
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-{5-[(E)-2-(2,4-difluorophenyl)vinyl]-2-(phenylsulfonyl)phenyl}ethanol | 56 mg, 72% | FC1=C(C=CC(=C1)F)/C=C/C=1C=CC(=C(C1)C(C)O)S(=O)(=O)C1=CC=CC=C1 | C22H18F2O3S
